US09238640B2
Preparation of 2-(4-(4-(4-Fluorobenzoyl)piperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.150 g, 0.40 mmol) in CH2Cl2 (10 mL) was added Et3N (0.08 mL, 0.60 mmol) and 4-fluorobenzoyl chloride (0.04 mL, 0.36 mmol). The resulting solution was stirred at room temperature for 3 hours. The solution was concentrated in vacuo and the residue was purified by flash chromatography on silica gel, eluting with 0% to 10% of MeOH/EtOAc, to afford the title compound (0.080 g, 45%). 1H NMR (300 MHz, DMSO-d6): δ 11.79 (s, 1H), 8.11 (d, J=8.8 Hz, 2H), 7.44-7.62 (m, 2H), 7.21-7.39 (m, 2H), 7.04 (d, J=9.0 Hz, 2H), 6.68 (s, 1H), 6.47 (s, 1H), 3.64-3.94 (m, 8H), 3.22-3.60 (m, 6H); APCI MS m/z 489 [M+H]+.

reactant | 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.40 mmol, 0.150 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
reactant | Et3N | 0.60 mmol, 0.08 mL | CCN(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.36 mmol, 0.04 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-(4-Fluorobenzoyl)piperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.080 g, 45% | FC1=CC=C(C(=O)N2CCN(CC2)C2=CC=C(C=C2)C2=NC3=CC(=CC(=C3C(N2)=O)OC)OC)C=C1 | C27H25FN4O4
